US08212052B2
Thioacetic Acid S-[2-({2-ethoxy-3-[2′-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-3H-benzoimidazole-4-carbonyl}amino)-4-methylpentyl]ester
2-Ethoxy-3-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-3H-benzoimidazole-4-carboxylic acid (1-chloromethyl-3-methylbutyl)amide (100 mg, 180 μmol) and potassium thioacetate (31 mg, 15 equiv) were dissolved in MeCN (5 mL) and heated at 90° C. overnight. The solvent was evaporated and the residue partitioned between water (10 mL) and EtOAc (10 mL). The aqueous phase was discarded, the organic layer washed with saturated aqueous NaCl, dried over NaSO4, decanted, and the solvent evaporated. The crude product (80 mg, 70%) was used without further purification. ESMS [M+H]+ calcd for C32H35N7O3S, 597.3. found 598.3.

reactant | 2-Ethoxy-3-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-3H-benzoimidazole-4-carboxylic acid (1-chloromethyl-3-methylbutyl)amide | 180 μmol, 100 mg | ClCC(CC(C)C)NC(=O)C1=CC=CC=2N=C(N(C21)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)OCC | C30H32ClN7O2
reactant | potassium thioacetate | 31 mg, 15 equiv | C(C)(=S)[O-].[K+]
solvent | MeCN | 5 mL | CC#N | C2H3N
product | Thioacetic Acid S-[2-({2-ethoxy-3-[2′-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-3H-benzoimidazole-4-carbonyl}amino)-4-methylpentyl]ester | C(C)OC=1N(C2=C(N1)C=CC=C2C(=O)NC(CSC(C)=O)CC(C)C)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C32H35N7O3S
